US07683060B2
3-[1-(4-methoxyphenyl)cyclopropyl]-7-phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazine
A mixture of 5-[1-(4-methoxyphenyl)cyclopropyl]-4H-1,2,4-triazole-3,4-diamine (70.2 mg, 0.286 mmol) and oxo(phenyl)acetaldehyde hydrate (0.0435 g, 0.286 mmol) in acetic acid (1.2 mL) was stirred at RT overnight. The mixture was diluted with methanol (3.0 mL) and subject to preparative RP-HPLC to afford the two regioisomers.

reactant | 5-[1-(4-methoxyphenyl)cyclopropyl]-4H-1,2,4-triazole-3,4-diamine | 0.286 mmol, 70.2 mg | COC1=CC=C(C=C1)C1(CC1)C=1N(C(=NN1)N)N | C12H15N5O
reactant | oxo(phenyl)acetaldehyde hydrate | 0.286 mmol, 0.0435 g | O.O=C(C=O)C1=CC=CC=C1
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 3.0 mL | CO | CH4O
product | 3-[1-(4-methoxyphenyl)cyclopropyl]-7-phenyl[1,2,4]triazolo[4,3-b][1,2,4]triazine | COC1=CC=C(C=C1)C1(CC1)C1=NN=C2N1N=CC(=N2)C2=CC=CC=C2 | C20H17N5O
